US05242943
The epoxide starting material is obtained from reaction of 4-hydroxy-3-methylphenyl benzoate with benzyl bromide to give 4-benzyloxy-3-methylphenyl benzoate (M.P. 120°-121° from methanol/ether), followed by de-esterification with 2M NaOH solution to give 4-benzyloxy-3-methylphenol (M.P. 69°-70° from ether/hexane) and reaction with 2-bromoethanol (light brown oil) to form an alcohol which is reacted with cyclopropylmethyl bromide in tetrahydrofuran. Debenzylation of the cyclopropylmethoxyethoxy derivative (unpurified) with 10% Pd on activated charcoal forms 4-(2-(cyclopropylmethoxy)ethoxy)-2-methylphenol which is then reacted with epichlorhydrin in the presence of a catalytic amount of piperidine to give 2-methyl-1-(2,3-epoxypropoxy)-4-(2-(cyclopropylmethoxy)ethoxy)benzene (light brown oil after chromatography on silica gel with toluene/ethyl-acetate (8:2)).

reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
reactant | 4-(2-(cyclopropylmethoxy)ethoxy)-2-methylphenol | C1(CC1)COCCOC1=CC(=C(C=C1)O)C | C13H18O3
reactant | epichlorhydrin | C(Cl)C1CO1 | C3H5ClO
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Pd on activated charcoal | [Pd] | Pd
product | 2-methyl-1-(2,3-epoxypropoxy)-4-(2-(cyclopropylmethoxy)ethoxy)benzene | CC1=C(C=CC(=C1)OCCOCC1CC1)OCC1CO1 | C16H22O4
